US05840732
ii) Synthesis of 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 2.24 g (4.87 mmol) of 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.55 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 2.38 g (98%, light yellow solid) of the desired product.

reactant | 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 4.87 mmol, 2.24 g | C(CCCCCCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C24H33N3O2S2
reactant | hydrochloric acid | 0.55 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCCCCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C24H33N3O2S2.ClH/c1-2-3-4-5-6-7-8-9-13-20-23(28)27(24(29)31-20)17-10-11-19-30-22-15-12-14-21-25-16-18-26(21)22;/h12-16,18H,2-11,17,19H2,1H3;1H
